US05442075
Production of 2-n-butyl-3,5-dihydroimidazole-4-one
31.71 g (0.25 mol) of glycine methyl ester hydrochloride was added to a solution of 10.1 g (0.25 mol) of sodium hydroxide in methanol at 0° C. After 15 minutes, 126.5 g of a 22.8 percent solution of pentanimidic acid methyl ester in chlorobenzene was instilled for 5 minutes in the white suspension. The light yellow suspension was stirred for 4 hours at room temperature and diluted with chlorobenzene (100 ml). The methanol was distilled off at a temperature of 26° C. and a pressure of 30 to 50 mbar, and the orange suspension was diluted with methylene chloride (100 ml) and then filtered. After removal of the solvent from the filtrate, 34.09 g (97 percent) of the title compound (content>95 percent, according to GC and 1H-NMR) was obtained. Data regarding the product was:

reactant | glycine methyl ester hydrochloride | 0.25 mol, 31.71 g | Cl.COC(CN)=O
reactant | sodium hydroxide | 0.25 mol, 10.1 g | [OH-].[Na+]
reactant | pentanimidic acid methyl ester | COC(CCCC)=N | C6H13NO
solvent | methanol | CO | CH4O
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-n-butyl-3,5-dihydroimidazole-4-one | 34.09 g | C(CCC)C1=NCC(N1)=O | C7H12N2O
